US04059702
2,7-Bis(3-piperidinopropoxy) fluoren-9-one dihydrochloride
A mixture of 63.6 g (0.30 mole) of 2,7-dihydroxy-fluoren-9-one, 188 g (0.95 mole) of 1-(3-chloropropyl) piperidine hydrochloride, 132 g (2.0 mole) of 85% potassium hydroxide in 900 ml of toluene and 300 ml of water is refluxed with vigorous stirring for 20 hours. The layers are separated upon cooling and the organic layer is washed 3 times with water, once with a saturated solution of sodium chloride and dried over anhydrous magnesium sulfate. The mixture is filtered and the solvent removed in vacuo. The residue is taken up in isopropyl alcohol and acidified to Congo Red with ethereal hydrogen chloride. The solid which precipitates is filtered, recrystallized from a mixture of 3 parts isopropyl alcohol to 1 part methanol, and the 2,7-bis (3-piperidinopropoxy)fluoren-9-one dihydrochloride so prepared is dried at 100° C. for 24 hours under vacuum, m.p. 279.5°-80.5° C., λmaxH2O 270, and E1cm1% 1370.

reactant | 2,7-dihydroxy-fluoren-9-one | 0.30 mole, 63.6 g | OC1=CC=2C(C3=CC(=CC=C3C2C=C1)O)=O | C13H8O3
reactant | 1-(3-chloropropyl) piperidine hydrochloride | 0.95 mole, 188 g | Cl.ClCCCN1CCCCC1
reactant | potassium hydroxide | 2.0 mole, 132 g | [OH-].[K+]
solvent | toluene | 900 ml | C1(=CC=CC=C1)C | C7H8
solvent | water | 300 ml | O | H2O
product | 2,7-Bis(3-piperidinopropoxy) fluoren-9-one dihydrochloride | Cl.Cl.N1(CCCCC1)CCCOC1=CC=2C(C3=CC(=CC=C3C2C=C1)OCCCN1CCCCC1)=O | InChI=1S/C29H38N2O3.2ClH/c32-29-27-21-23(33-19-7-17-30-13-3-1-4-14-30)9-11-25(27)26-12-10-24(22-28(26)29)34-20-8-18-31-15-5-2-6-16-31;;/h9-12,21-22H,1-8,13-20H2;2*1H
